US07732435B2
Isobutyric acid 2-[2-(4-chlorophenyl)-acetyl]-5-fluoro-phenyl ester
To a solution of 2-(4-chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-ethanone (16.0 g, 60.6 mmol) in CH2Cl2 (300 ml) is added triethylamine (7.4 g, 72.7 mmol). A solution of isobutyryl chloride (7.1 g, 66.6 mmol) in CH2Cl2 (100 ml) is added slowly over 30 min. The reaction mixture is stirred at room temperature for 2 h. The organic phase is washed with 0.5 M HCl, water and brine and dried (MgSO4). The solvent is removed in vacuo, and the product is purified by flash chromatography on silica gel using iso-hexane:ethyl acetate (20:1 to 10:1) as the eluent to give the title compound.

reactant | 2-(4-chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-ethanone | 60.6 mmol, 16.0 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)F)O | C14H10ClFO2
reactant | triethylamine | 72.7 mmol, 7.4 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 66.6 mmol, 7.1 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Isobutyric acid 2-[2-(4-chlorophenyl)-acetyl]-5-fluoro-phenyl ester | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)F)OC(C(C)C)=O | C18H16ClFO3
